data/oMe_Silver.jsonl
{"reaction_id": "NR-140_1-C_2-CC_3-c1ccc(C#N)cc1_4-c1cc(Br)ccc1","name": "McMurry Reaction","level": "medium","reactants_smiles": ["O=C(C)(CC)","O=C(c1ccc(C#N)cc1)(c1cc(Br)ccc1)"],"products_smiles": ["C(=C(c1ccc(C#N)cc1)(c1cc(Br)ccc1))(C)(CC)"],"conditions": "TiCl3, K","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[C](O[Ti](Cl)(Cl))(C)(CC)","rationale": "Low-valent titanium donates an electron to the carbonyl, generating a ketyl radical stabilized by resonance between the carbon and oxygen atoms."},{"step": 2,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[C](C)(CC)O[Ti](Cl)(Cl)O[C](c1ccc(C#N)cc1)(c1cc(Br)ccc1)","rationale": "A second single-electron transfer reduces another carbonyl, producing two ketyl radicals that are stabilized by Ti–O coordination."},{"step": 3,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "C1(C)(CC)O[Ti](Cl)(Cl)OC1(c1ccc(C#N)cc1)(c1cc(Br)ccc1)","rationale": "Radical coupling occurs because the ketyl radicals are in close proximity on the titanium center, minimizing steric hindrance and forming a C–C bond."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "C(=C(c1ccc(C#N)cc1)(c1cc(Br)ccc1))(C)(CC)","rationale": "Reductive elimination from the titanium alkoxide releases the alkene, driven by the thermodynamic stability of the Ti–O bonds and the conjugated C=C product."}],"description": "In the McMurry reaction, low-valent titanium generated from TiCl3 and K reduces two carbonyl groups to radicals, which couple to form a titanium-bound intermediate. Subsequent reductive elimination yields the alkene, driven by strong Ti–O bond formation and radical stability."}
{"reaction_id": "NR-044_1-C#N_2-C=CC_3-C1CCCCC1_4-C_5-C_6-C(C)CC","name": "Cope Elimination","level": "easy","reactants_smiles": ["[CH](C#N)(C=CC)C(C1CCCCC1)(C)[N+](C)(C(C)CC)[O-]"],"products_smiles": ["C(C#N)(C=CC)=C(C1CCCCC1)(C)","O[N](C)(C(C)CC)"],"conditions": "$heating$","mechnism_text_description": "The Cope elimination is a thermal intramolecular syn-stereospecific elimination of amine oxides yielding alkenes and N,N-dialkylhydroxylamines. The mechanism is concerted, involving a five-membered cyclic transition state where the oxygen of the amine oxide abstracts a $\\beta$-hydrogen. This proton abstraction, C=C double bond formation, and C-N bond cleavage (releasing N,N-dialkylhydroxylamine as the effective leaving group) occur simultaneously in a single step. While it's an elimination reaction, its concerted cyclic nature gives it pericyclic character, often compared to a [1,5]-sigmatropic hydrogen shift or an ene-like reaction.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C#N)(C=CC)=C(C1CCCCC1)(C).O[N](C)(C(C)CC)","step_weight": 0,"rationale": "Thermal energy promotes a concerted syn-elimination where the amine oxide oxygen, being nucleophilic and well-positioned, abstracts the β-hydrogen. Simultaneous C–N bond cleavage is favored by the stability of the N,N-dialkylhydroxylamine leaving group and the relief of steric strain."}],"description": "Upon heating, the amine oxide undergoes a concerted syn-elimination via a five-membered cyclic transition state. The oxygen abstracts a β-hydrogen while the C–N bond breaks and a C=C double bond forms, yielding the alkene and N,N-dialkylhydroxylamine."}
{"reaction_id": "NR-001_1-c1ccccc1_2-CC","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(c1ccccc1)(CC)C=O","C(c1ccccc1)(CC)C=O"],"products_smiles": ["C(c1ccccc1)(CC)C(O)C(c1ccccc1)(CC)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(CC)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(CC)C([O-])C(c1ccccc1)(CC)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(CC)C(O)C(c1ccccc1)(CC)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
